US06583135B2
Preparation of 3-Benzoyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.738 g, 2.0 mmol) and tetrakis(triphenylphosphine)palladium (0.23 g, 0.20 mmol) in dimethoxyethane (5.0 mL) and a solution of 2-fluorophenylboronic acid (0.336 g, 2.4 mmol) in dimethoxyethane (5.0 mL) and sodium carbonate (2 M, 7.0 mL) were reacted in a manner similar to Preparation 1. Column chromatography (silica gel, 20-50% EtOAc/heptane) afforded 0.33 g (43%) of the title compound as a solid: mp 241-244° C.; 1H NMR (400 MHz, CDCl3) δ 8.20, 8.04, 7.31, 7.15, 7.04, 3.96, 3.83, 3.62, 3.42, 3.14, 2.84, 2.71-2.69, 2.47, 2.31; IR (drift) 3236, 1603, 1501, 1485, 1469, 1456, 1434, 1249, 1217, 795, 786, 759, 746, 733, 706 cm−1; MS (EI) m/z 384 (M+); HRMS (FAB) calcd for C25H21FN2O+H: 385.1716, found: 385.1721; Anal. Calcd for C25H21FN2O: C, 78.10; H, 5.51; N, 7.29. Found: C, 77.61; H, 5.60; N, 7.14.

reactant | 3-benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.0 mmol, 0.738 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | 2-fluorophenylboronic acid | 2.4 mmol, 0.336 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 2 M, 7.0 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.20 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.33 g, 43% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)F | C25H21FN2O
